US05006563
A solution 6.7 g diethylaminosulfur trifluoride in 20 ml of dry dichloromethane was stirred at -78° C. under nitrogen as a solution of 12 g of 2-(3-chlorophenyl)-2-hydroxy-1-[4-(dimethylamino)phenyl]ethanone in 200 ml of dry dichloromethane was added dropwise. The mixture was warmed to room temperature and stirred for 72 hours. The mixture was poured into 200 ml of ice water and the layers separated. The organic layer was dried (Na2SO4), filtered, and evaporated. The residue was purified by flash chromatography (8:1 hexane-ethyl acetate) and then recrystallized from ether-hexane to give 1.1 g of 2-(3-chlorophenyl)-2-fluoro-1-[4-(dimethylamino)phenyl]ethanone, mp 90°-92° C.

reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-(3-chlorophenyl)-2-hydroxy-1-[4-(dimethylamino)phenyl]ethanone | 12 g | ClC=1C=C(C=CC1)C(C(=O)C1=CC=C(C=C1)N(C)C)O | C16H16ClNO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(3-chlorophenyl)-2-fluoro-1-[4-(dimethylamino)phenyl]ethanone | 1.1 g | ClC=1C=C(C=CC1)C(C(=O)C1=CC=C(C=C1)N(C)C)F | C16H15ClFNO
